US05612373
In a similar manner to Example 9, starting material step (a), 4-t-butoxycarbonylaminomethylbenzoic acid (300 mg), HBTU (460 mg), HOBT (190 mg), diisopropylethylamine (0.62 ml), DMF (3 ml) and benzyl 2-methylcarbazate (190 mg) were reacted to give benzyl 2-methyl-3-(4-t-butyoxycarbonylaminomethylbenzoyl)carbazate (440 mg) as a foam; NMR Spectrum (DMSO-d6) 1.39 (9H, s), 3.13 (3H, s), 4.17 (2H, d), 5.08 (2H, s), 7.42 (8H, m), 7.78 (2H, m), 10.73 (1H, br); Mass Spectrum m/Z 414 (M+H)+. In the NMR spectrum, ancillary signals attributable to rotamers were observed.

reactant | 4-t-butoxycarbonylaminomethylbenzoic acid | 300 mg | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
reactant | HBTU | 460 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 190 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 0.62 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl 2-methylcarbazate | 190 mg | CN(C(=O)OCC1=CC=CC=C1)N | C9H12N2O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | benzyl 2-methyl-3-(4-t-butyoxycarbonylaminomethylbenzoyl)carbazate | 440 mg | CN(C(=O)OCC1=CC=CC=C1)NC(C1=CC=C(C=C1)CNC(=O)OC(C)(C)C)=O | C22H27N3O5
